US08431695B2
Preparation of 7-(1-acetylpiperidin-4-yl)-5-[2-(Pyridin-2-ylmethyl)-2H-Indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for Example 369 and using 7 7-piperidin-4-yl-5-[2-(pyridin-2-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine and substituting acetyl chloride for 2-chloro-N,N-dimethylacetamide as starting materials, 43 mg (83%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 8.58 (d, 1 H) 8.41 (s, 1 H) 7.65-7.81 (m, 3 H) 7.39 (s, 1 H) 7.19-7.26 (m, 3 H) 6.57 (s, 1 H) 5.78 (s, 2 H) 4.68 (d, 1 H) 4.02 (d, 1 H) 3.21-3.41 (m, 2 H) 2.76 (dd, 1 H) 2.01-2.19 (m, 5 H) 1.87 (dt, 2 H) LC-MS [M+H]+=467.4, RT=2.07 min.

reactant | 7-piperidin-4-yl-5-[2-(pyridin-2-ylmethyl)-2H-indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=NC=CC=C2 | C24H24N8
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 7-(1-acetylpiperidin-4-yl)-5-[2-(Pyridin-2-ylmethyl)-2H-Indazol-6-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 43 mg, 83% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=NC=CC=C2 | C26H26N8O
